US08859541B2
F1a tert-butyl-N-[1-[[6-ethynyl-5-(2-methylimidazo[1,2-a]pyridin-3-yl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of tert-butyl-N-methyl-N-[1-[[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-tri-(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]carbamate E1k (16.7 g, 28.3 mmol), THF (200 ml) and tetrabutylammonium fluoride (1 mol/l solution in THF, 34 ml, 34 mmol) is stirred at RT for 15 minutes. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The mixture is concentrated in vacuo and the product purified by NP chromatography. Yield: 10.6 g (86%). HPLC-MS: M+H=434; tR=1.20 min (*Method—1).

reactant | tert-butyl-N-methyl-N-[1-[[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-tri-(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC=C2)C)C#C[Si](C(C)C)(C(C)C)C(C)C)C)C)=O | C33H47N5O3Si
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 34 mmol, 1 mol/l, 34 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl-N-[1-[[6-ethynyl-5-(2-methylimidazo[1,2-a]pyridin-3-yl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC=C2)C)C#C)C)=O | C24H27N5O3
